US07687627B2
(S)-N-{3-[4-(4-hydroxy-piperidin-1-yl)-phenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide
The title compound was prepared by reacting (S)-N-{3-[4-(4-oxo-piperidin-1-yl)-phenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide (1.0 mmol), with sodiumborohydride (1.2 mmol)) methanol (10 ml) at a temperature 0-25° C. for 2 hours in 85% yield.

reactant | (S)-N-{3-[4-(4-oxo-piperidin-1-yl)-phenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide | 1.0 mmol | O=C1CCN(CC1)C1=CC=C(C=C1)N1C(O[C@H](C1)CNC(C)=O)=O | C17H21N3O4
reactant | sodiumborohydride | 1.2 mmol | [BH4-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | (S)-N-{3-[4-(4-hydroxy-piperidin-1-yl)-phenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide | 85% yield | OC1CCN(CC1)C1=CC=C(C=C1)N1C(O[C@H](C1)CNC(C)=O)=O | C17H23N3O4
